US05223539
N-cyclohexyl-4-(4-methoxyphenoxy)-N-(1-methylethyl)benzamide
The reaction and workup were carried out in the same manner as described in Example 1 using p-bromobenzoic acid N-isopropyl-N-cyclohexyl amide (1.751 g, 5.40 mmol), 4-methoxy phenol (715 mg, 5.76 mmol) and cuprous oxide (390 mg, 2.73 mmol) in 2,4,6-collidine (15 ml). The crude product was chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound as a crystalline solid that could be recrystallized from ethyl acetate and hexane, m. pt. 81.73° C. (DSC)

reactant | p-bromobenzoic acid N-isopropyl-N-cyclohexyl amide | 5.40 mmol, 1.751 g | C(C)(C)N(C(C1=CC=C(C=C1)Br)=O)C1CCCCC1 | C16H22BrNO
reactant | 4-methoxy phenol | 5.76 mmol, 715 mg | COC1=CC=C(C=C1)O | C7H8O2
solvent | 2,4,6-collidine | 15 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | N-cyclohexyl-4-(4-methoxyphenoxy)-N-(1-methylethyl)benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)OC1=CC=C(C=C1)OC)=O)C(C)C | C23H29NO3
